US06200254B1
A flask was charged with cyclopentadeca-4E,12E-dien-1-one (0.10 g, 0.45 mmole), ethanol (5 ml) and 5% palladium-on-carbon (0.01 g). The mixture was stirred at room temperature under 1 atm of hydrogen gas for 1 hour. The reaction mixture was filtered through celite and concentrated to provide cyclopentadecanone (exaltone) (0.09 g, 88% yield). C15H28O (224.39 g/mole). 1HNMR (500 MHz, CDCl3): 1.25 (m, 20H), 1.60 (m, 4H), 2.35 (t, 4H) ppm. 13CNMR (125 MHz, CDCl3): 23.40, 26.25, 26.39, 26.69, 26.74, 27.54, 42.05, 212.50, ppm. IR (νmax(cm−1)): 2924(s), 2854(s), 1708(s), 1458(m).

reactant | cyclopentadeca-4E,12E-dien-1-one | 0.45 mmole, 0.10 g | C1(CC\C=C\CCCCCC\C=C\CC1)=O | C15H24O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.01 g | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | cyclopentadecanone | 0.09 g, 88% yield | C1(CCCCCCCCCCCCCC1)=O | C15H28O
